US09353066B2
Palladium on carbon (10 wt %, 13 mg, 0.012 mmol) was added to a solution of 1-(methylsulfonyl)-4-(5-nitrobiphenyl-3-yl)piperazine (44.1 mg, 0.122 mmol) in ethyl acetate (1 mL) and acetic acid (0.1 mL) and the reaction mixture was stirred under an atmosphere of H2 (balloon) for 90 minutes. Dichloromethane was added to the reaction mixture, and the mixture was filtered through CELITE, rinsed with ethyl acetate and concentrated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate/hexanes) to provide 5-[4-(methylsulfonyl)piperazin-1-yl]biphenyl-3-amine as a white foam. 1H NMR (400 MHz, Acetone) δ 9.18 (s, 1H), 8.82 (d, J=4.9 Hz, 1H), 7.77-7.63 (m, 3H), 7.47 (dd, J=10.4, 4.7 Hz, 2H), 7.37 (t, J=7.4 Hz, 1H), 7.23 (d, J=4.9 Hz, 1H), 7.02 (d, J=1.5 Hz, 1H), 3.43 (dd, J=12.4, 5.3 Hz, 8H), 2.91 (s, 3H).

reactant | 1-(methylsulfonyl)-4-(5-nitrobiphenyl-3-yl)piperazine | 0.122 mmol, 44.1 mg | CS(=O)(=O)N1CCN(CC1)C=1C=C(C=C(C1)[N+](=O)[O-])C1=CC=CC=C1 | C17H19N3O4S
reactant | Dichloromethane | ClCCl | CH2Cl2
catalyst | Palladium on carbon | 0.012 mmol, 13 mg | [Pd] | Pd
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
product | 5-[4-(methylsulfonyl)piperazin-1-yl]biphenyl-3-amine | CS(=O)(=O)N1CCN(CC1)C=1C=C(C=C(C1)C1=CC=CC=C1)N | C17H21N3O2S
